US06384080B1
To a solution of 2-fluoro-5-nitrobenzoic acid (235 mg) in pyridine (1.5 mL) was added trans-4-aminocyclohexanol (292 mg), and the mixture was stirred for 3 hours at 80° C. After evaporation of the solvent, the residue was dissolved in water and neutralized with 1N-hydrochloric acid (1.9 mL). The resulting precipitates were collected by filtration and washed successively with water and methanol to give 2-(trans-4-hydroxycyclohexylamino)-5-nitrobenzoic acid (279 mg) as a solid substance.

reactant | 2-fluoro-5-nitrobenzoic acid | 235 mg | FC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H4FNO4
reactant | trans-4-aminocyclohexanol | 292 mg | N[C@@H]1CC[C@H](CC1)O | C6H13NO
solvent | pyridine | 1.5 mL | N1=CC=CC=C1 | C5H5N
product | 2-(trans-4-hydroxycyclohexylamino)-5-nitrobenzoic acid | 279 mg | O[C@@H]1CC[C@H](CC1)NC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C13H16N2O5
